US07329678B2
2-amino-5-bromonicotinaldehyde (1.61 g, 8 mmol), 4-methoxyphenylboronic acid (2.43 g, 16 mmol) and anhydrous potassium carbonate (2.21 g, 16 mmol) were dissolved in 50 ml of CH3CN/H2O (8:2), and 1 mol % of dichlorobis(triphenylphopsine)palladium(II) (56 mg, 0.08 mmol) was added while stirring. The reaction mixture was heated to reflux and stirred for 2 h. The reaction mixture was allowed to cool, and then partitioned between diethyl ether and water. The aqueous layer was extracted with another portion of diethyl ether. The combined organics were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The compound was purified by chromatography on silica gel eluting with with 30% EtOAc/hexanes to yield 2-amino-5-(4-methoxyphenyl)nicotinaldehyde (0.85 g, 47%).

reactant | 2-amino-5-bromonicotinaldehyde | 8 mmol, 1.61 g | NC1=C(C=O)C=C(C=N1)Br | C6H5BrN2O
reactant | 4-methoxyphenylboronic acid | 16 mmol, 2.43 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 16 mmol, 2.21 g | C([O-])([O-])=O.[K+].[K+]
solvent | CH3CN H2O | 50 ml | CC#N.O
product | 2-amino-5-(4-methoxyphenyl)nicotinaldehyde | 0.85 g, 47% | NC1=C(C=O)C=C(C=N1)C1=CC=C(C=C1)OC | C13H12N2O2
